US04833142
4-Fluoro-N-[2-{4-(2-benzimidazolinon-4-yl)-1-piperazinyl}ethyl]benzamide.
10 Mmol (3.57 g) of 4-fluoro-N-[2-{4-(2,3-diaminophenyl)-1-piperazinyl}ethyl]benzamide were dissolved in 35 ml of tetrahydrofuran (which had been distilled over LiAlH4), and the solution was cooled in an ice-bath to 0° C. under an atmosphere of nitrogen. 21 Mmol (3.4 g) of 1,1'-carbonyldiimidazole in 20 ml of tetrahydrofuran was added in one portion to this solution while vigorously stirring. The temperature raised to 10° C. Thereafter the mixture was stirred for 3 hours at room temperature. The reaction mixture was evaporated to dryness under reduced pressure, the residue was taken up into chloroform, and the solution was washed with water. The organic layer was evaporated to dryness, and the residue was chromatographed over silicagel with a mixture of methylene chloride, methanol and 25% of ammonia (92:7.5:0.5) as the eluent. The so obtained base was cyrstallized from ethanol, and the title compound was obtained having a melting-point of 240°-243.5° C.

reactant | 4-fluoro-N-[2-{4-(2,3-diaminophenyl)-1-piperazinyl}ethyl]benzamide | 10 Mmol, 3.57 g | FC1=CC=C(C(=O)NCCN2CCN(CC2)C2=C(C(=CC=C2)N)N)C=C1 | C19H24FN5O
reactant | 1,1'-carbonyldiimidazole | 21 Mmol, 3.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-Fluoro-N-[2-{4-(2-benzimidazolinon-4-yl)-1-piperazinyl}ethyl]benzamide | FC1=CC=C(C(=O)NCCN2CCN(CC2)C2=CC=CC=3NC(NC32)=O)C=C1 | C20H22FN5O2
